US08465674B2
(4-(6-Propyldecahydronaphthalene-2-yl)cyclohexyl)methyl p-toluenesulfonate (3.5 g) prepared in the tenth step was dissolved in DMF (50 ml). 4-Ethoxy-2,3-difluorophenol (1.6 g) and potassium carbonate (2.2 g) were added, and the mixture was stirred at 70° C. for 5 hours. The reaction mixture was washed with water, and dried over anhydrous magnesium sulfate. The DMF was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-heptane=1/20 by volume) and then by recrystallization (solvent: Solmix/n-heptane=1/4 by volume) to give 2-(4-((4-ethoxy-2,3-difluorophenoxy)methyl)cyclohexyl)-6-propyldecahydronaphthalene (2.1 g).

reactant | (4-(6-Propyldecahydronaphthalene-2-yl)cyclohexyl)methyl p-toluenesulfonate | 3.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCC(CC1)C1CC2CCC(CC2CC1)CCC)C | C27H42O3S
reactant | 4-Ethoxy-2,3-difluorophenol | 1.6 g | C(C)OC1=C(C(=C(C=C1)O)F)F | C8H8F2O2
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(4-((4-ethoxy-2,3-difluorophenoxy)methyl)cyclohexyl)-6-propyldecahydronaphthalene | 2.1 g | C(C)OC1=C(C(=C(OCC2CCC(CC2)C2CC3CCC(CC3CC2)CCC)C=C1)F)F | C28H42F2O2
